US05326760
EXAMPLE D N-[(Phenylmethoxy)carbonyl]-D-homoserine, 1,1-dimethylethyl ester
29.23 g of N-[(phenylmethoxy)carbonyl]-D-aspartic acid, 1,1-dimethylethyl ester, prepared as in Example C, in 120 mL dry tetrahydrofuran at -10° C. was treated with 10 mL N-methylmorpholine. The mixture was stirred for 3 min and 8.7 mL ethylchloroformate was added dropwise. The mixture was warmed to 23° C. over 15 min and filtered. The filtrate was added dropwise over 30 min to a vigorously stirred mixture of 7.7 g sodium borohydride in 60 mL water at 3° C. The cooling bath was removed, the mixture stirred at 21° C. for 3 h, then cooled to 0° C. and acidified to pH2 with concentrated HCl. The mixture was extracted with 3×200 mL ethyl acetate and the combined organic extracts were washed with brine, dried (Na2SO4) and evaporated to furnish a clear oil. Purification by silica chromatography using methylene chloride-acetone (9:1) as eluent gave the title compound as a clear oil; 21.6 g.

reactant | N-[(phenylmethoxy)carbonyl]-D-aspartic acid, 1,1-dimethylethyl ester | 29.23 g | C1(=CC=CC=C1)COC(=O)N[C@H](CC(=O)[O-])C(=O)OC(C)(C)C
reactant | N-methylmorpholine | 10 mL | CN1CCOCC1 | C5H11NO
reactant | ethylchloroformate | 8.7 mL | C(C)OC(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | N-[(Phenylmethoxy)carbonyl]-D-homoserine, 1,1-dimethylethyl ester | C1(=CC=CC=C1)COC(=O)N[C@H](CCO)C(=O)OC(C)(C)C | C16H23NO5
